US06297267B1
To a solution of 3-[((3aR,7aR)-2,2-dimethyl-hexahydro-1,3-benzodioxol-3a-yl) hydroxymethyl]-1-(tertbutyldiphenyl-silyloxy)benzene (45 g) in CH2Cl2 (450 ml) were added phenyl chlorothionoformate (14.5 ml) and pyridine (18 ml) at 0° C. After being stirred for 12 hours at room temperature, the mixture was evaporated and the resultant was partitioned between EtOAc and water. The organic layer was washed with water, 1N-HCl solution, sat.NaHCO3 solution and then brine. The solvent was evaporated in vacuo to give an oily residue. The residue was dissolved in toluene (400 ml) to which tributyltinhydride (50 ml) and 2,2′-azobis-(isobutyronitrile)(100 mg) were added. The mixture was refluxed for 4 hours under stirring and then purified by chromatography on silica gel to give an oily compound. The oily compound was dissolved in a mixture of MeOH (200 ml) and THF (100 ml), to which p-toluenesulphonic acid (200mg) was added at room temperature. The mixture was stirred for 12 hours and evaporated. The residue was partitioned between EtOAc and water. The organic layer was washed with water, sat. NaHCO3 solution and then brine. The solvent was evaporated in vacuo to give (1R,2R)-1-[3-(tertbutyldiphenylsilyloxy)benzyl]-1,2-dihydroxycyclohexane (30 g).

reactant | 3-[((3aR,7aR)-2,2-dimethyl-hexahydro-1,3-benzodioxol-3a-yl) hydroxymethyl]-1-(tertbutyldiphenyl-silyloxy)benzene | 45 g | CC1(O[C@@]2([C@H](O1)CCCC2)C(C=2C=C(C=CC2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)O)C | C32H40O4Si
reactant | phenyl chlorothionoformate | 14.5 ml | C1=CC=C(C=C1)OC(=S)Cl | C7H5ClOS
reactant | 2,2′-azobis-(isobutyronitrile) | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | p-toluenesulphonic acid | 200mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | CH2Cl2 | 450 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | tributyltinhydride | 50 ml | C(CCC)[SnH](CCCC)CCCC
solvent | MeOH | 200 ml | CO | CH4O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | pyridine | 18 ml | N1=CC=CC=C1 | C5H5N
product | (1R,2R)-1-[3-(tertbutyldiphenylsilyloxy)benzyl]-1,2-dihydroxycyclohexane | 30 g | C(C)(C)(C)[Si](OC=1C=C(C[C@]2([C@@H](CCCC2)O)O)C=CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H36O3Si
